US03957989
2,7-BIS[5-(DIALLYLAMINO)VALERYL]XANTHENE
A mixture of 41.9 g (0.1 mole) of 2,7-bis(5-chlorovaleryl)-xanthene, 2 g of potassium iodide, 100 ml of diallylamine and 200 ml. of tetrahydrofuran was heated and stirred at 120°C. for 24 hours. After cooling, the reaction mixture was filtered and the filtrate evaporated to dryness. The resulting residue was cooled, dissolved in 10% HCl, extracted with diethyl ether and made alkaline. The product was extracted with methylene chloride, evaporated to dryness, recrystallized six times from heptane and dried in vacuo to give the desired product. M.P. 54°-55°C.

reactant | 2,7-bis(5-chlorovaleryl)-xanthene | 0.1 mole, 41.9 g | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCCCl)=O | C23H24Cl2O3
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | diallylamine | 100 ml | C(C=C)NCC=C | C6H11N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS[5-(DIALLYLAMINO)VALERYL]XANTHENE | C(C=C)N(CCCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCCN(CC=C)CC=C)=O)CC=C | C35H44N2O3
